US09421177B2
4-(nonyloxy)benzaldehyde (5-C9)
General procedure K was used to convert 4-hydroxybenzaldehyde (8.2 mmols) and 1-bromononane (12.3 mmols) to 6.5 mmols (79%) of the title product was recovered. 1H NMR (300 MHz, CDCl3) δ 9.88 (s, 1H), 7.83 (d, J=8.9 Hz, 2H), 6.99 (d, J=8.7 Hz, 2H), 4.04 (t, J=6.6 Hz, 2H), 1.76-1.85 (m, 2H), 1.14-1.53 (m, 12H), 0.88 (t, J=6.6 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 164.40, 132.11, 114.86, 68.55, 31.98, 29.47, 29.37, 29.18, 28.90, 28.31, 26.08, 22.79, 14.23.

reactant | 4-hydroxybenzaldehyde | 8.2 mmols | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-bromononane | 12.3 mmols | BrCCCCCCCCC | C9H19Br
product | 4-(nonyloxy)benzaldehyde | 6.5 mmols, 79% | C(CCCCCCCC)OC1=CC=C(C=O)C=C1 | C16H24O2
